Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / lactose
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, sore throat, congestion, recently diagnosed 
UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with a history of type 1 DM c/d gastroparesis 
presenting to ___ with complaints of nausea, vomting, sore 
throat, congestion, and recently diagnosed UTI.  
Pt reports that last ___ she developed fatigue and decreased 
PO intake. She reports vomiting when taking her medications. She 
subsequently developed dysuria on ___ and presented to 
urgent care where she was given 1L NS and started on 
ciprofloxacin for a UTI. In addition, she was started on 
Diflucan given her propensity to develop yeast infections on 
antibiotics. She reports taking two doses. She reports that she 
then developed worsening nausea and has been unable to eat solid 
food since ___. On ___, she developed a sore throat 
and nasal congestion with associated subjective fevers and 
chills. She also reports some chest tightness associated with 
the symptoms. Given her overall constellation of symptoms she 
decided to present to the ___ ED for evaluation.  
In the ED, initial vitals were: 98.7 97 161/86 16 99% RA  
- Exam in ED notable for vaginal candidiasis  
- Labs were significant for WBC 11.4, H/H 11.6/33.8, plts 407, 
Na 135, BUN/Cr ___, FSBG 341-381, UA with 7 WBCs, Mod 
Bacteria, Mod Leuks, Neg Nitrites, Neg Ketones  
- CXR demonstrated improved areas of probable atelectasis, but 
no clear evidence of pneumonia.  
- The patient was given 1L NS and Ceftriaxone 1g IV x 1  
Vitals prior to transfer were: 99.0 87 136/73 17 99% RA  
Upon arrival to the floor, pt is eating a sandwich at bedside 
and states that she feels very unwell.  
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
DM1 w/ gastroparesis and retinopathy
DM CKD
Anxiety
HTN
 
Social History:
___
Family History:
Father with DM2
Mom with esophageal abnormality
No other family history of GI disorder or malignancy.
 
Physical Exam:
ADMISSION EXAM
==============
Vitals: 98.1 122/60 85 18 100% on RA  
General: Alert, oriented, no acute distress, sitting up in bed  
HEENT: Sclera anicteric, MMM, tongue with extensive thrush  
Neck: Obese, unable to evaulate JVP  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Obese, Soft, non-tender, non-distended; No CVAT  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Grossly intact.  

DISCHARGE EXAM
==============
Vitals- 98.9 122/60 85 18 100 RA FSBG 374, 154, and 315  
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, white plaques on tongue  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds minimal, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  
 
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:50PM   GLUCOSE-370* UREA N-29* CREAT-1.5* SODIUM-135 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-22 ANION GAP-18
___ 07:50PM   WBC-11.4* RBC-3.77* HGB-11.6* HCT-33.8* 
MCV-90 MCH-30.8 MCHC-34.3# RDW-14.3
___ 07:50PM   NEUTS-81.0* LYMPHS-14.7* MONOS-2.4 EOS-1.7 
BASOS-0.2
___ 08:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-100 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD
___ 08:50PM URINE  RBC-1 WBC-7* BACTERIA-MOD YEAST-NONE 
EPI-3

Urine Culture
=============
___ 7:03 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      GRAM POSITIVE BACTERIA.    >100,000 ORGANISMS/ML.. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with poorly controlled type 
1 DM presenting with hyperglycemia, recently diagnosed UTI, and 
mucocutaneous candidal infections with nausea, vomiting, and 
hyperglycemia. 

#UTI: Recently diagnosed and started on ciprofloxacin on ___ at 
urgent care. In ED, UA positive for leukocytes and bacteria. 
Urine cultures were drawn and are pending at discharge. Urine 
culture from urgent care visit last week grew multiple organisms 
but sensitivities were not performed. She was started on IV 
ceftriaxone on ___ and was transitioned to nitrofurantoin 100mg 
twice a day from ___ until ___ for a total of 5 day course of 
antibiotics. 

#Type I diabetes, hyperglycemia: Patient presented with blood 
glucoses in the 300s and fingersticks remained high likely in 
setting of infection. UA negative for ketones, so unlikely DKA. 
___ was consulted and recommended continuing glargine 28u 
twice a day, humalog after each meal with carbohydrate count 
scale, and follow up with Dr. ___ in one week. 

#Chronic kidney disease with acute kidney injury: Creatinine was 
elevated to 1.5 from baseline of 1.2-1.3. Most likely pre-renal 
in setting of poor PO intake. 

#Oral thrush and candidal vaginitis: Thrush on oral and pelvic 
exam and patient reports dysphagia but no odynophagia. She was 
started on nystatin swish and swallow. For candidal vaginitis, 
she should continue taking fluconazole 150mg daily for one week. 


===========================
Transitional Care Issues:
- Creatinine was elevated at admission, please check a follow up 
creatinine in a few days to evaluate resolution.
- Home furosemide and valsartan were held due to elevated 
creatinine. Her blood pressures were well controlled during 
admission off the medications. Please check blood pressure and 
restart medications as needed when elevated creatinine resolves.
- Patient reports oral thrush and ___ vaginitis symptoms for 
about 9 months, the fluconazole should be sufficient to treat 
the thrush, but she may need longer course if this is a 
recurrent infection or if she continues to require antibiotic 
treatment for other infections.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 60 mg PO DAILY 
2. ClonazePAM 2 mg PO QHS 
3. Fluoxetine 80 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
6. Senna 8.6 mg PO BID:PRN Constipation 
7. Topiramate (Topamax) 50 mg PO QAM 
8. Topiramate (Topamax) 250 mg PO QPM 
9. Vitamin D 1000 UNIT PO DAILY 
10. Fluticasone Propionate NASAL 1 SPRY NU DAILY Nasal 
Congestion 
11. Furosemide 80 mg PO BID 
12. modafinil 100 mg oral PRN Low Energy 
13. Valsartan 160 mg PO DAILY 
14. Ondansetron 4 mg PO TID:PRN Nausea, vomiting 
15. Metoclopramide 5 mg PO QIDACHS Nausea 
16. Docusate Sodium 100 mg PO BID 
17. Linzess (linaclotide) 145 mcg oral DAILY 
18. Glargine 28 Units Breakfast
Glargine 28 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Atorvastatin 60 mg PO DAILY 
2. ClonazePAM 2 mg PO QHS 
3. Docusate Sodium 100 mg PO BID 
4. Fluoxetine 80 mg PO DAILY 
5. Metoclopramide 5 mg PO QIDACHS Nausea 
6. Omeprazole 20 mg PO DAILY 
7. Ondansetron 4 mg PO TID:PRN Nausea, vomiting 
8. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
9. Senna 8.6 mg PO BID:PRN Constipation 
10. Topiramate (Topamax) 50 mg PO QAM 
11. Topiramate (Topamax) 250 mg PO QPM 
12. Fluticasone Propionate NASAL 1 SPRY NU DAILY Nasal 
Congestion 
13. Linzess (linaclotide) 145 mcg oral DAILY 
14. modafinil 100 mg oral PRN Low Energy 
15. Vitamin D 1000 UNIT PO DAILY 
16. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
17. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H UTI 
Duration: 5 Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*8 Capsule Refills:*0
18. Glargine 30 Units Breakfast
Glargine 30 Units Bedtime
19. Fluconazole 150 mg PO Q24H Duration: 7 Days 
RX *fluconazole [Diflucan] 150 mg 1 tablet(s) by mouth daily 
Disp #*6 Tablet Refills:*0
20. Outpatient Lab Work
Please check your CBC, complete metabolic panel, and glucose in 
two days when you visit your ___ doctor.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Hyperglycemia
Urinary tract infection
___ vulvovaginitis
Oral candidiasis

Secondary diagnosis:
Type I diabetes
Gastroparesis
Chronic kidney disease
Anxiety
Depression
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized for a urinary tract infection (UTI), 
candidiasis (fungal infection), and high blood sugars. Please 
continue to take your antibiotics until you finish the entire 
course. You should follow up with your diabetes doctor regularly 
to make sure your insulin regimen is meeting your needs. Please 
get your blood checked at this visit.
 
Followup Instructions:
___